US07897766B2
5-Phenylthiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-phenylthiophene-2-carboxylic acid (Maybridge) according to methods A and C; yield 62 mg, 0.17 mmol (53%): 1H NMR (300 MHz, methanol-d4) δ 2.08-2.27 (m, 5H), 2.47 (s, 2H), 3.48 (d, J=13 Hz, 2H), 3.55 (s, 2H), 3.81 (d, J=13 Hz, 2H), 4.25 (t, J=3 Hz, 1H), 7.32-7.47 (m, 4H), 7.65-7.71 (m, 2H), 7.83 (d, J=4 Hz, 1H); MS (DCI/NH3) m/z 339 (M+H)+; Anal. C20H22N2OS.HCl: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-phenylthiophene-2-carboxylic acid | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O2S
reactant | NH3 | N | H3N
product | 5-Phenylthiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2SC(=CC2)C2=CC=CC=C2 | InChI=1S/C20H22N2OS.ClH/c23-20(18-7-6-17(24-18)14-4-2-1-3-5-14)21-19-15-8-13-9-16(19)12-22(10-13)11-15;/h1-7,13,15-16,19H,8-12H2,(H,21,23);1H/t13?,15?,16?,19-;
